* d:\esim\fossee\esim\library\subcircuitlibrary\an_sense\an_sense.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m2 net-_m1-pad1_ net-_m1-pad1_ vcc vcc CMOSP W=100u L=100u M=1
m4 vcc net-_m1-pad1_ net-_m4-pad3_ vcc CMOSP W=100u L=100u M=1
m7 vcc net-_m4-pad3_ net-_m6-pad1_ vcc CMOSP W=100u L=100u M=1
m9 vcc net-_m6-pad1_ net-_m8-pad1_ vcc CMOSP W=100u L=100u M=1
m8 net-_m8-pad1_ net-_m6-pad1_ gnd gnd CMOSN W=0.36u L=0.18u M=1
m6 net-_m6-pad1_ net-_m4-pad3_ gnd gnd CMOSN W=100u L=100u M=1
m5 net-_m1-pad3_  blbar net-_m4-pad3_ gnd CMOSN W=100u L=100u M=1
m1 net-_m1-pad1_  bl net-_m1-pad3_ gnd CMOSN W=100u L=100u M=1
m3 net-_m1-pad3_ vcc gnd gnd CMOSN W=100u L=100u M=1
* u1   bl  blbar net-_m8-pad1_ port
.tran 10e-12 1e-09 oe-00 UIC
.IC V(1)=0

* Control Statements 
.control
run
*print allv > plot_data_v.txt
*print alli > plot_data_i.txt
.endc
.end
